data/oMe_Silver.jsonl
{"reaction_id": "NR-052_1-c1ccccc1_2-CC_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(c1ccccc1)(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(c1ccccc1)(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(c1ccccc1)(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
{"reaction_id": "NR-048_1-C_2-CC","name": "Corey-Nicolaou Macrolactonization","level": "medium","reactants_smiles": ["CC(=O)O","CCO"],"products_smiles": ["CC(=O)O(CC)"],"conditions": "P(c1ccccc1)(c1ccccc1)c1ccccc1, c1cnccc1SSc1cncccc1","mechnism_text_description": "The Corey-Nicolaou macrolactonization involves the activation of a carboxylic acid ([*:1]-COOH) using triphenylphosphine (Ph3P) and 2,2'-dipyridyl disulfide (PySSPy), followed by esterification with an alcohol ([*:2]-OH).\nStep 1: Triphenylphosphine attacks 2,2'-dipyridyl disulfide, forming an activated phosphonium salt (Ph3P+-S-Py) and a thiopyridylate anion (PyS-).\nStep 2: The carboxylic acid reacts with the phosphonium salt (Ph3P+-S-Py), often facilitated by PyS- acting as a base, to form an S-pyridyl thioester ([*:1]-C(=O)-S-Py) and triphenylphosphine oxide or Ph3P depending on precise pathway depiction.\nStep 3: The alcohol ([*:2]-OH) performs a nucleophilic attack on the carbonyl carbon of the S-pyridyl thioester. The nitrogen of the pyridyl group assists by deprotonating the attacking alcohol, leading to a zwitterionic tetrahedral intermediate where the pyridyl nitrogen is protonated.\nStep 4: The tetrahedral intermediate collapses, ejecting 2-pyridinethiol (PySH, which can tautomerize to 2-thiopyridone) as a leaving group, to yield the final ester product ([*:1]-C(=O)-O[*:2]).","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)Sc1ncccc1","step_weight": 0,"rationale": "Triphenylphosphine attacks the electrophilic disulfide sulfur due to its strong nucleophilicity, forming a reactive phosphonium–sulfur species and generating a good thiopyridyl leaving group."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CC(=O)O[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)","step_weight": 0,"rationale": "The carboxylate, deprotonated by PyS−, attacks the phosphonium–sulfur complex; the electron-withdrawing pyridyl group stabilizes the thioester intermediate, increasing carbonyl electrophilicity."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC([O-])(O(CC))O[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)","step_weight": 0,"rationale": "The alcohol nucleophile attacks the activated thioester carbonyl, favored by the strong electron-withdrawing effect of the pyridyl–sulfur, while pyridyl nitrogen assists by deprotonating the alcohol."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC(=O)O(CC)","step_weight": 0,"rationale": "Collapse of the tetrahedral intermediate expels 2-pyridinethiol, a stabilized leaving group due to resonance in the pyridyl ring, yielding the ester product."}],"description": "The Corey–Nicolaou macrolactonization activates the carboxylic acid via a phosphonium–thiopyridyl intermediate, enhancing electrophilicity. The alcohol then attacks the activated carbonyl, and elimination of a good leaving group yields the ester under mild, selective conditions."}
